US07973047B2
Step 2: 2-(1-(tert-butyldimethylsilyloxy)cyclopropyl)acetaldehyde
To a 2.0 L RBF containing 1-(2,2-dimethoxyethyl)cyclopropanol (17.400 g, 119 mmol) was added DCM (550 ml) and the mixture was allowed to stir at 0° C. for 15 min. 2,4,6-Collidine (63.1 ml, 476 mmol) was added and the reaction was allowed to chill for 5 min before the addition of tert-butyldimethylsilyl triflate (27.3 ml, 119 mmol) over 10 min. The reaction was allowed to stir for 20 min and then analyzed by tlc which showed that all of the tertiary alcohol had been protected as its TBS ether. So, triethylsilyl trifluoromethanesulfonate (53.8 ml, 238 mmol) was added via syringe over 10 min. After 20 min, tlc showed all of the material was converted to a baseline Rf material (mixed acetal) and then water (300 mL) was added and the reaction was allowed to stir overnight. The layers were separated. The DCM was washed with dilute HCl to remove the 2,4,6-collidine. The aq. layer was back extracted with DCM. The combined organics were washed with sodium bicarbonate, brine, dried with sodium sulfate and filtered though a plug of silica gel. Desired fractions were collected to give the product.

reactant | 1-(2,2-dimethoxyethyl)cyclopropanol | 119 mmol, 17.400 g | COC(CC1(CC1)O)OC | C7H14O3
reactant | 2,4,6-Collidine | 476 mmol, 63.1 ml | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | tert-butyldimethylsilyl triflate | 119 mmol, 27.3 ml | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C(C)(C)C | C7H15F3O3SSi
reactant | triethylsilyl trifluoromethanesulfonate | 238 mmol, 53.8 ml | FC(S(=O)(=O)O[Si](CC)(CC)CC)(F)F | C7H15F3O3SSi
solvent | water | 300 mL | O | H2O
solvent | DCM | 550 ml | C(Cl)Cl | CH2Cl2
product | 2-(1-(tert-butyldimethylsilyloxy)cyclopropyl)acetaldehyde | [Si](C)(C)(C(C)(C)C)OC1(CC1)CC=O | C11H22O2Si
